Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
heart catheterization
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of HTN, HLD, CAD 
s/p vfib arrest and ICD placement ___, h/o EtOh abuse and 
pancreatitis, who is being admitted directly from clinic where 
he saw Dr. ___ was complaining of chest pain.  He has 
been experiencing substernal tightness radiating to the neck 
which worsens with exertion for the past two days.  Over the 
past few weeks he has had brief episodes (seconds) of sharp pain 
in the sides of his chest, but yesterday morning a tightness 
began which radiates to the neck, is assocaited with diaphoresis 
and DOE and has not completely went away. It is different than 
the pain that he gets with GERD.   At baseline he ambulates with 
a walker since injuring his back.  He last drank EtOh this ___ 
before he was admitted for pancreatitis.  He last used cocaine 
___.    Most recent echocardiogram showed a left 
ventricular ejection fraction of 50-55%, consistent with prior 
inferior infarct.  There is normal diastolic function and no 
significant valvular abnormalities.  He has mild pulmonary 
hypertension. ICD interrogation today in clinic showed stable 
pacing and sensing thresholds without arrhythmias.  EKG in 
clinic exhibited sinus rhythm at a rate of 62 beats per minute 
with Q waves in leads II, III, and aVF, which was consistent 
with previous tracings. Due to substernal chest pain, known CAD 
and inability to do an exercise stress test due to limited 
mobility from his back injury he was sent over for direct admit 
to ___ for likely cath tomorrow with Dr. ___ radial 
approach. 

On arrival to the floor he is complaining of ___ chest 
tightness. 
BP was in 140's.  EKG was unchaged from prior.  He was given 
SLNx1, started on a nitro gtt, heparin gtt, given ASA 325mg to 
chew, and started on metoprolol tartrate 25mg qid. 

 
Past Medical History:
-Hypertension
-Hyperlipidemia.
-Coronary artery disease status post VF arrest and ___
Virtuoso II ICD implantation in ___.
-had angioplasty in ___ w/o stenting
-cath at ___ in ___ with 20% LAD lesion and
occlusion at the apex with collaterals.
-GERD.
-fall off a roof in ___ for which he was
admitted to ___, complicated by pulmonary
embolism for which he was on Coumadin.
-hospitalization (___) for alcohol related
pancreatitis - now stopped. (H/O - Alcoholic Pancreatitis x3 per 
patient)
-? of TIA vs. cervical disease - all resolved. On aspirin 81
mg. Of note TIA question developed after discontinuing warfarin.
-H/O  ETOH abuse  
- Cdiff tx w/ vanc from prior admission
- Splenic infarct  
- Depression/anxiety
SURGICAL HISTORY:
-On ___, he underwent an L3-S1 decompression
with fusion for treatment of spondylolisthesis, multilevel 
spinal
stenosis.

 
Social History:
___
Family History:
Brother and sister both died of lung cancer. Mother died of "a 
broken heart" in her ___.  No family history of early MI, 
arrhythmia, cardiomyopathies, or sudden cardiac death; otherwise 
non-contributory. 
 
Physical Exam:
VS: 98.2, 143/94, 62, 18, 100%RA
GENERAL: WDWN man in NAD. Oriented x3. Mood, affect appropriate. 
Appears comfortable.   
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8 cm.  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, diffusely mildly tender to palpation.  No HSM.  
Hepatojugular reflux is present and when applying pressure to 
his abdomen he reports pain in his neck. Abd aorta not enlarged 
by palpation. No abdominal bruits.  
EXTREMITIES: No c/c.  Trace edema. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

On discharge, dressing on R radial cath site c/d/i, no pain.  
Hand warm and well perfused with intact sensation.  No hematoma 
or palpable mass. Exam otherwise unchanged. 
 
Pertinent Results:
___ 05:00PM BLOOD WBC-7.3 RBC-4.17* Hgb-13.1*# Hct-37.4* 
MCV-90 MCH-31.5 MCHC-35.1* RDW-13.6 Plt ___
___ 06:05AM BLOOD WBC-9.2 RBC-4.14* Hgb-12.8* Hct-37.4* 
MCV-90 MCH-31.0 MCHC-34.4 RDW-13.6 Plt ___
___ 05:00PM BLOOD ___ PTT-30.1 ___
___ 06:05AM BLOOD ___ PTT-46.2* ___
___ 05:00PM BLOOD Glucose-89 UreaN-15 Creat-0.9 Na-143 
K-3.8 Cl-104 HCO3-26 AnGap-17
___ 06:05AM BLOOD Glucose-107* UreaN-15 Creat-0.9 Na-140 
K-4.1 Cl-104 HCO3-25 AnGap-15
___ 05:00PM BLOOD CK(CPK)-172
___ 05:00PM BLOOD CK-MB-3 cTropnT-<0.01
___ 11:49PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:05AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:00PM BLOOD Calcium-9.7 Phos-3.2 Mg-2.1
___ 06:05AM BLOOD Triglyc-166* HDL-44 CHOL/HD-3.8 
LDLcalc-92

Cardiac cath ___
Coronary angiography:  right dominant
LMCA, LAD, LCX:  No angiographically apparent CAD  
RCA:  Mild disease proximally 10%

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of HTN, HLD, CAD 
s/p vfib arrest and ICD placement ___ and a history of 
polysubstance abuse who is being directly admitted from clinic 
with chest pain for consideration of catheterization, biomarkers 
were negative and CP resolved on nitro gtt, cath ___ showed 
essentially normal coronaries.  

#Coronaries.  His chest pain is atypical in that it has been 
continuous for 2 days, does not correlate strongly with 
exertion, and associated symptoms of DOE and diaphoresis have 
been only intermittent.  He does have a history of CAD, with a 
20% LAD lesion and occlusion at the apex noted in ___ which 
raises suspicion for ACS despite his atypical pain.  He was 
treated initially with 325mg aspirin, chewed, sublingual nitro 
x1, then started on a nitro gtt, heparin gtt, and metoprolol 
tartrate 25mg qid. No events were recorded on tele, and there 
have been no EKG changes. Trop has been <.01 x3.  Overnight 
continued nitro gtt, heparin gtt, daily ASA, BB, and CP resolved 
by AM.  Taken for cath ___ which showed essentially normal 
coronaries.
 
# PUMP:  Last ECHO showed regional LV systolic dysfunction 
consistent with past inferior infarction. Normal diastolic 
function. No significant valvular abnormality seen. Mild 
pulmonary artery systolic hypertension.   Hepatojugular reflux 
on exam also consistent with pulmonary artery hypertension.  BB 
as above, started ACE after cath. 

Chronic issues:
# H/O alcohol abuse
-continue home vitamin supplementation including MV, folate, 
thiamine
# GERD
-Continue home omeprazole
# HLD
-continue home simvastatin, switch to atorvastatin 80mg if he 
has ACS
# Depression
-continue home citalopram
# Chronic Pain
-continue home percocet PRN 

Transitional Issues:
Started metoprolol, switched simvastatin to atorvastatin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN back 
pain 
3. Simvastatin 10 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Viagra *NF* (sildenafil) 100 mg Oral qd prn sex 
7. Multivitamins 1 TAB PO DAILY 
8. Thiamine 50 mg PO DAILY 
9. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN back 
pain 
7. Thiamine 50 mg PO DAILY 
8. Viagra *NF* (sildenafil) 100 mg Oral qd prn sex 
9. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
10. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
angina without acute coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you at ___ 
___.  You were sent to the hospital by your 
cardiologist for chest pain.  You were started on heparin for 
anti-coagulation and nitro for chest pain.  Your pain resolved 
with the nitroglycerin via IV.  You underwent cardiac 
catheterization that showed no disease of your coronary 
arteries.  In addition, your cardiac enzymes and your EKG showed 
no changes.  You were not having a heart attack.

We have made several adjustments to your medications to reduce 
your risk of a heart attack.

Please follow-up with your physicians as listed below.
 
Followup Instructions:
___